US03947582
A mixture of 0.01 mole of p-(benzoxazol-2-yl)-atropamide, 15 ml. of acetic acid and 15 ml. of concentrated hydrochloric acid is heated on the steam-bath for 1 hour. Filtration of the reaction mixture into 200 ml. of cold water, followed by filtration of the resulting precipitate, gives p-(benzoxazol-2-yl)atropic acid.

reactant | p-(benzoxazol-2-yl)-atropamide | 0.01 mole | O1C(=NC2=C1C=CC=C2)C2=CC=C(C(C(=O)N)=C)C=C2 | C16H12N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | p-(benzoxazol-2-yl)atropic acid | O1C(=NC2=C1C=CC=C2)C2=CC=C(C(C(=O)O)=C)C=C2 | C16H11NO3
